US07781478B2
2-(4-Amino-3-chloro-phenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile (0.67 g, 2 mmol), prepared in step ZA, was dissolved in DMF (7 mL), followed by the addition of 2-chloro-pyrimidine (0.34 g, 3 mmol) and cesium carbonate (1.3 g, 4 mmol). The mixture was brought to 70° C. and stirred for 1 h. After cooling, the solid was filtered and washed with EtOAc. The filtrate was washed with water and brine, dried, concentrated and triturated with ether to provide 2-(4-amino-3-chloro-phenyl)-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indole-3-carbonitrile (0.76 g, 91%) as a white solid.

reactant | 2-(4-Amino-3-chloro-phenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile | 2 mmol, 0.67 g | NC1=C(C=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1)Cl | C19H16ClN3O
reactant | 2-chloro-pyrimidine | 3 mmol, 0.34 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | cesium carbonate | 4 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 2-(4-amino-3-chloro-phenyl)-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indole-3-carbonitrile | 0.76 g, 91% | NC1=C(C=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1=NC=CC=N1)C1CCC1)Cl | C23H18ClN5O
